US05861401
Sodium methanethiolate (0.342 g) was added to a solution of 5-amino-2,4-dichloropyrimidine (1 g) in methanol (5 ml) and the mixture was heated at reflux for 2 hours. Volatile material was then removed by evaporation and water (1 ml) was added. The suspended solid was collected by filtration, washed with hexane (10 ml) and dried under vacuum to give 5-amino-2-chloro-4-methylthiopyrimidine (0.3 g); 1H NMR (CDCl3): 2.55 (s, 3H), 7.75 (s, 1H); mass spectrum (+ve CI): 175 (M+H)+.

reactant | Sodium methanethiolate | 0.342 g | C[S-].[Na+]
reactant | 5-amino-2,4-dichloropyrimidine | 1 g | NC=1C(=NC(=NC1)Cl)Cl | C4H3Cl2N3
solvent | methanol | 5 ml | CO | CH4O
product | 5-amino-2-chloro-4-methylthiopyrimidine | 0.3 g | NC=1C(=NC(=NC1)Cl)SC | C5H6ClN3S
